### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/SchurComplement): adding matrix determinant lemma

### PR DESCRIPTION
**Pull request by liuyf0188**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 1]
```diff
@@ -444,14 +444,19 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
-
-TODO: show this more generally. -/
+/-- A special case of the **Matrix determinant lemma** for when `A = I`. -/
 theorem det_one_add_col_mul_row (u v : m → α) : det (1 + col u * row v) = 1 + v ⬝ᵥ u := by
   rw [det_one_add_mul_comm, det_unique, Pi.add_apply, Pi.add_apply, Matrix.one_apply_eq,
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- The **Matrix determinant lemma** -/
+theorem matrix_determinant_lemma (A: Matrix m m α) (U: Matrix m n α) (V: Matrix n m α) (hA: IsUnit A.det):
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:454]: Note that you can see the error message in the "Files changed" view on GitHub. In that case it tells you that the line is too long: we ask that all lines are at most 100 characters for readability, so you should simply add a line break between the assumptions.

Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: thanks, now all checks are passed

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 2]
```diff
@@ -444,14 +444,20 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
-TODO: show this more generally. -/
+/-- A special case of the **Matrix determinant lemma** for when `A = I`. -/
 theorem det_one_add_col_mul_row (u v : m → α) : det (1 + col u * row v) = 1 + v ⬝ᵥ u := by
   rw [det_one_add_mul_comm, det_unique, Pi.add_apply, Pi.add_apply, Matrix.one_apply_eq,
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- The **Matrix determinant lemma** -/
+theorem matrix_determinant_lemma (A: Matrix m m α) (U: Matrix m n α)
+    (V: Matrix n m α) (hA: IsUnit A.det):
```
Comment (mo271) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:455]:
```suggestion
theorem matrix_determinant_lemma (A : Matrix m m α) (U : Matrix m n α)
    (V : Matrix n m α) (hA : IsUnit A.det) :
```
Perhaps the argument `A` could be made implicit, since it is mentioned already in `hA`

Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: > Perhaps the argument `A` could be made implicit, since it is mentioned already in `hA`

Sure, please let me know how to do it

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 3]
```diff
@@ -444,14 +444,20 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
-
-TODO: show this more generally. -/
+/-- A special case of the **Matrix determinant lemma** for when `A = I`. -/
 theorem det_one_add_col_mul_row (u v : m → α) : det (1 + col u * row v) = 1 + v ⬝ᵥ u := by
   rw [det_one_add_mul_comm, det_unique, Pi.add_apply, Pi.add_apply, Matrix.one_apply_eq,
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- The **Matrix determinant lemma** -/
+theorem matrix_determinant_lemma (A : Matrix m m α) (U : Matrix m n α)
```
Comment (mo271) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:454]:
```suggestion
theorem matrix_determinant_lemma {A : Matrix m m α} (U : Matrix m n α)
```

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: sure, see the other suggestion

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean (hunk 3 above)
Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: thank you. may i ask whats the difference between explicit and implicit variable declaration?

Comment (mo271) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: https://leanprover.github.io/lean4/doc/implicit.html

Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: thank you, i'll look it up

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 4]
```diff
@@ -444,14 +444,20 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
-
-TODO: show this more generally. -/
+/-- A special case of the **Matrix determinant lemma** for when `A = I`. -/
 theorem det_one_add_col_mul_row (u v : m → α) : det (1 + col u * row v) = 1 + v ⬝ᵥ u := by
   rw [det_one_add_mul_comm, det_unique, Pi.add_apply, Pi.add_apply, Matrix.one_apply_eq,
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- The **Matrix determinant lemma** -/
+theorem matrix_determinant_lemma {A : Matrix m m α} (U : Matrix m n α)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:454]:
```suggestion
theorem det_add_mul {A : Matrix m m α} (U : Matrix m n α)
```
and then for convenience have `det_mul_add` proved with `add_comm` and that lemma?

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 5]
```diff
@@ -444,14 +444,20 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
+    (V : Matrix n m α) (hA : IsUnit A.det) :
+    (A + U * V).det = A.det*(1 + V * (A⁻¹) * U).det := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:456]: The version of the lemma I was hoping for is
$$\det\left(\mathbf{A} + \mathbf{uv}^\textsf{T}\right) = \det\left(\mathbf{A}\right) + \mathbf{v}^\textsf{T}\mathrm{adj}\left(\mathbf{A}\right)\mathbf{u}\,,$$

So I think we should keep around a TODO comment.

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 6]
```diff
@@ -444,14 +444,20 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
-/-- A special case of the **Matrix determinant lemma** for when `A = I`.
-
-TODO: show this more generally. -/
+/-- A special case of the **Matrix determinant lemma** for when `A = I`. -/
 theorem det_one_add_col_mul_row (u v : m → α) : det (1 + col u * row v) = 1 + v ⬝ᵥ u := by
   rw [det_one_add_mul_comm, det_unique, Pi.add_apply, Pi.add_apply, Matrix.one_apply_eq,
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- The **Matrix determinant lemma** -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:453]:
```suggestion
/-- A generalization of the **Matrix determinant lemma** -/
```
at least according to wikipedia

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean (hunk 5 above)
Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:456]: ok, i will amend this

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 7]
```diff
@@ -452,6 +452,14 @@ theorem det_one_add_col_mul_row (u v : m → α) : det (1 + col u * row v) = 1 +
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- A generalization of the **Matrix determinant lemma** -/
+theorem det_add_mul {A : Matrix m m α} (U : Matrix m n α)
+    (V : Matrix n m α) (hA : IsUnit A.det) :
+    (A + U * V).det = A.det*(1 + V * (A⁻¹) * U).det := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:458]:
```suggestion
    (A + U * V).det = A.det * (1 + V * A⁻¹ * U).det := by
```

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:458]: Can you update the TODO comment to include this statement?

Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:458]: sure, will do later

**Comment by liuyf0188** [comment]
added the exact matrix determinant lemma and delete the TODO again

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: (to be clear, I am not asking you to prove it; just write the statement as lean code in the comment!)

Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: but i proved it already, you dont want it?

Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: and also im not familiar with the naming rule, please assist in naming the mdl in lean mathlib convenstion

Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: > but i proved it already, you dont want it?

or should i create a seperate PR you mean?

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 8]
```diff
@@ -444,14 +444,28 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- The **Matrix determinant lemma** -/
+theorem the_mdl (u v : m → α) {A : Matrix m m α} (hA : IsUnit A.det):
+    (A + col u * row v).det = A.det * (1 + row v * A⁻¹ * col u).det := by
+    nth_rewrite 1 [← Matrix.mul_one A]
+    rwa [← Matrix.mul_nonsing_inv_cancel_left A (col u * row v),
+      ←Matrix.mul_add,det_mul, ←Matrix.mul_assoc, det_one_add_mul_comm,
+      ←Matrix.mul_assoc]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:459]: Indents are wrong here
```suggestion
  nth_rewrite 1 [← Matrix.mul_one A]
  rwa [← Matrix.mul_nonsing_inv_cancel_left A (col u * row v),
    ←Matrix.mul_add,det_mul, ←Matrix.mul_assoc, det_one_add_mul_comm,
    ←Matrix.mul_assoc]
```

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 9]
```diff
@@ -444,14 +444,28 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
-/-- A special case of the **Matrix determinant lemma** for when `A = I`.
-
-TODO: show this more generally. -/
+/-- A special case of the **Matrix determinant lemma** for when `A = I`. -/
 theorem det_one_add_col_mul_row (u v : m → α) : det (1 + col u * row v) = 1 + v ⬝ᵥ u := by
   rw [det_one_add_mul_comm, det_unique, Pi.add_apply, Pi.add_apply, Matrix.one_apply_eq,
     Matrix.row_mul_col_apply]
 #align matrix.det_one_add_col_mul_row Matrix.det_one_add_col_mul_row
 
+/-- The **Matrix determinant lemma** -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:453]:
```suggestion
/-- The **Matrix determinant lemma**

 TODO: show the more general version without `hA : IsUnit A.det` as
 `(A + col u * row v).det = A.det + v ⬝ᵥ (adjugate A).mulVec u`.
-/
```
Is what I was asking for before.

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean]: I think we were talking past each other a bit. I've added some more comments which should be clearer, and will mark this resolved.

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean (hunk 9 above)
Comment (liuyf0188) [reply Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:453]: i see, i can start work on that

**Review by eric-wieser — APPROVED** [review]
bors d+

I don't think the TODO comment should be fixed in this PR; what you have here is already great, and I think is fine to merge as-is!

The important thing was just to *record* the TODO.

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 10]
```diff
@@ -444,14 +444,32 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
+    ←Matrix.mul_add,det_mul, ←Matrix.mul_assoc, det_one_add_mul_comm,
+    ←Matrix.mul_assoc]
+
+/-- A generalization of the **Matrix determinant lemma** -/
+theorem det_add_mul {A : Matrix m m α} (U : Matrix m n α)
+    (V : Matrix n m α) (hA : IsUnit A.det) :
+    (A + U * V).det = A.det * (1 + V * A⁻¹ * U).det := by
+  nth_rewrite 1 [← Matrix.mul_one A]
+  rwa [← Matrix.mul_nonsing_inv_cancel_left A (U * V), ←Matrix.mul_add,
+    det_mul,←Matrix.mul_assoc, det_one_add_mul_comm, ←Matrix.mul_assoc]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:471]:
```suggestion
    det_mul, ←Matrix.mul_assoc, det_one_add_mul_comm, ←Matrix.mul_assoc]
```

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 11]
```diff
@@ -444,14 +444,32 @@ theorem det_one_sub_mul_comm (A : Matrix m n α) (B : Matrix n m α) :
...
+/-- The **Matrix determinant lemma**
+
+TODO: show the more general version without `hA : IsUnit A.det` as
+`(A + col u * row v).det = A.det + v ⬝ᵥ (adjugate A).mulVec u`.
+-/
+theorem det_add_col_mul_row {A : Matrix m m α} (hA : IsUnit A.det) (u v : m → α) :
+    (A + col u * row v).det = A.det * (1 + row v * A⁻¹ * col u).det := by
+  nth_rewrite 1 [← Matrix.mul_one A]
+  rwa [← Matrix.mul_nonsing_inv_cancel_left A (col u * row v),
+    ←Matrix.mul_add,det_mul, ←Matrix.mul_assoc, det_one_add_mul_comm,
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:462]:
```suggestion
    ←Matrix.mul_add, det_mul, ←Matrix.mul_assoc, det_one_add_mul_comm,
```
